US07638521B2
d) 3-Methoxycarbonyl-1-(7-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-indole
1.40 g (8 mmol) of 3-methoxycarbonyl-1H-indole are added to 30 cm3 of dimethylformamide at a temperature in the region of 20° C. under an argon atmosphere, and 0.32 g (10 mmol) of sodium hydride are then added. The reaction mixture is stirred at a temperature in the region of 20° C. for 1 hour, 1.35 g (8.05 mmol) of 4-chloro-7-methyl-7H-pyrrolo[2,3-d]pyrimidine in 10 cm3 of dimethylformamide are then added, and the mixture is heated at a temperature in the region of 100° C. for 16 hours. The reaction mixture is then cooled to a temperature in the region of 20° C. and then poured into a mixture of 200 cm3 of ethyl acetate and 200 cm3 of water. The organic phase is separated out after the phases have settled, washed with twice 200 cm3 of water and then with 200 cm3 of saturated aqueous sodium chloride solution, and then dried over magnesium sulphate and concentrated to dryness under reduced pressure (2.7 kPa). The residue is purified by flash chromatography on silica gel [eluent: cyclohexane/ethyl acetate (80/20 by volume)]. After the fractions containing the expected product have been concentrated to dryness under reduced pressure (2.7 kPa), 1.35 g of 3-methoxycarbonyl-1-(7-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-indole are obtained in the form of an off-white solid. Mass spectrum (EI): m/e 306 (M+) (base peak).

reactant | 3-methoxycarbonyl-1H-indole | 8 mmol, 1.40 g | COC(=O)C1=CNC2=CC=CC=C12 | C10H9NO2
reactant | sodium hydride | 10 mmol, 0.32 g | [H-].[Na+]
reactant | 4-chloro-7-methyl-7H-pyrrolo[2,3-d]pyrimidine | 8.05 mmol, 1.35 g | ClC=1C2=C(N=CN1)N(C=C2)C | C7H6ClN3
reactant | ethyl acetate | 200 cm3 | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 10 cm3 | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 cm3 | CN(C=O)C | C3H7NO
solvent | water | 200 cm3 | O | H2O
product | 3-Methoxycarbonyl-1-(7-methyl-7H-pyrrolo[2,3-d]pyrimidin-4-yl)-1H-indole | COC(=O)C1=CN(C2=CC=CC=C12)C=1C2=C(N=CN1)N(C=C2)C | C17H14N4O2
